US05817698
(±) cis-1-Ethoxycarbonylamino-2-[4-(1-(4-fluorophenyl)-1-methylethyl)phenoxymethyl] cyclopentane
To a solution of (±) cis -1-amino-2-[4-(1-(4-fluorophenyl)-1-methylethyl)phenoxymethyl] cyclopentane (0.58 g, 1.77 mmol) in dry diethyl ether (30 ml) containing triethylamine (0.49 ml, 3.54 mmol) was added a solution of ethyl chloroformate (0.29 g, 2.66 mmol) in diethyl ether (5 ml). The reaction was worked up as described in Preparation 8, and the resulting yellow oil (0.62 g) was used directly in the next stage.

reactant | (±) cis -1-amino-2-[4-(1-(4-fluorophenyl)-1-methylethyl)phenoxymethyl] cyclopentane | 1.77 mmol, 0.58 g | N[C@H]1[C@H](CCC1)COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)F | C21H26FNO
reactant | triethylamine | 3.54 mmol, 0.49 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.66 mmol, 0.29 g | ClC(=O)OCC | C3H5ClO2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | (±) cis-1-Ethoxycarbonylamino-2-[4-(1-(4-fluorophenyl)-1-methylethyl)phenoxymethyl] cyclopentane | C(C)OC(=O)N[C@H]1[C@H](CCC1)COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)F | C24H30FNO3
